US08664220B2
Step 2: 1-{4′-[3-Methyl-4-(4-phenyl-pyrazol-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
1-{4′-[4-(4-Bromo-pyrazol-1-ylmethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (0.062 g, 0.122 mmol), phenylboronic acid (0.018 g, 0.146 mmol), tri(o-tolyl)phosphine (0.004 g, 0.0122 mmol) and sodium bicarbonate (0.041 g, 0.488 mmol) were dissolved in DME (1.5 mL) and H2O (0.5 mL) and N2 (g) was bubbled through the mixture for 10 minutes. Palladium(II) acetate (1 mg, 0.002 mmol) was added and the reaction was heated to 90° C. for 1 hour. The reaction was cooled and purified via silica gel chromatography to afford the title compound.

reactant | 1-{4′-[4-(4-Bromo-pyrazol-1-ylmethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 0.122 mmol, 0.062 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN1N=CC(=C1)Br | C26H24BrN3O3
reactant | phenylboronic acid | 0.146 mmol, 0.018 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tri(o-tolyl)phosphine | 0.0122 mmol, 0.004 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | sodium bicarbonate | 0.488 mmol, 0.041 g | C([O-])(O)=O.[Na+]
solvent | DME | 1.5 mL | COCCOC | C4H10O2
catalyst | Palladium(II) acetate | 0.002 mmol, 1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-{4′-[3-Methyl-4-(4-phenyl-pyrazol-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN1N=CC(=C1)C1=CC=CC=C1 | C32H29N3O3
